US06689888B2
Preparation of Intermediate 4-Pyrazol-3-yl-phenol:
To a round-bottomed flask was added D,L-methionine (1.19 g, 7.96 mmol), 3-(4-methoxyphenyl)-pyrazole (990 mg, 5.68 mmol), and methanesulfonic acid (23 ml). The resulting solution was heated to about 50° C. for about forty-eight hours, and was then allowed to cool to room temperature and poured into water. The pH of the solution was adjusted to about 7 with 5 N sodium hydroxide, and was then extracted with ethyl acetate. The organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 950 mg of a white solid which was determined to be about 95% pure by NMR. This material was subsequently employed directly without further purification.

reactant | D,L-methionine | 7.96 mmol, 1.19 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | 3-(4-methoxyphenyl)-pyrazole | 5.68 mmol, 990 mg | COC1=CC=C(C=C1)C1=NNC=C1 | C10H10N2O
reactant | methanesulfonic acid | 23 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Pyrazol-3-yl-phenol | 950 mg | N1N=C(C=C1)C1=CC=C(C=C1)O | C9H8N2O
